US05089507
3-chloro-6,6-dimethyl-2-oxoperhydroazepine
3.0 g (14.3 mmoles) of 3,3-dichloro-6,6-dimethyl-2-oxoperhydroazepine were dissolved in 300 ml of glacial acetic acid and shaked at 40 psi of hydrogen with 1.9 g of 10% Pd/C. When the theoretical amount of hydrogen was consumed the catalyst was filtered off and the filtrate evaporated in vacuo to yield 2.5 g of the title compound.

reactant | 3,3-dichloro-6,6-dimethyl-2-oxoperhydroazepine | 14.3 mmoles, 3.0 g | ClC1(C(NCC(CC1)(C)C)=O)Cl | C8H13Cl2NO
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
catalyst | Pd/C | 1.9 g | [Pd] | Pd
product | 3-chloro-6,6-dimethyl-2-oxoperhydroazepine | 2.5 g | ClC1C(NCC(CC1)(C)C)=O | C8H14ClNO
